US05932593
Synthesis of 2-t-Butoxycarbonylaminoethylbromide
2-Aminoethylbromide hydrobromide (35.77 g, 174.6 mmol) and di-t-butyl dicarbonate (22.80 g, 104.5 mmol) were added to a mixed solvent of 300 ml of diethyl ether and 300 ml of water. Then, sodium hydrogencarbonate (44.00 g, 523.7 mmol) was gradually added and the mixture was stirred at room temperature overnight. The diethyl ether layer was washed with 80 ml of 1 N hydrochloric acid and then with 80 ml of a saturated aqueous sodium chloride solution, and dried over magnesium sulfate powder. The solvent was evaporated to obtain the titled compound.

reactant | 2-Aminoethylbromide hydrobromide | 174.6 mmol, 35.77 g | Br.NCCBr
reactant | di-t-butyl dicarbonate | 104.5 mmol, 22.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
reactant | sodium hydrogencarbonate | 523.7 mmol, 44.00 g | C(O)([O-])=O.[Na+]
solvent | water | 300 ml | O | H2O
product | 2-t-Butoxycarbonylaminoethylbromide | Yield: 92% | C(C)(C)(C)OC(=O)NCCBr | C7H14BrNO2
